US05455253
2-Isobutyl-4-phenyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
5-Methyl-1-phenyl-1-hexen-3-one (5.05 g), 1,3-cyclohexanedione (3.31 g) and ammonium acetate (4.91 g) were combined in 200 mL of ethanol and allowed to reflux for 7 hours. The mixture was evaporated and the residue was purified by chromatography, with ethyl acetate as the eluent, to provide the title compound as a white solid (1.48 g); mp 182°-184° C.; MS: 281 (M); NMR: 0.79 (d,3, J=5.5, CH3), 0.85 (d,3, J=5.5, CH3), 1.73-1.93 (m,5, CH2, CH2, CH), 2.13 (m,2, CH2), 2.42 (m,2, CH2), 4.38 (d,1, J=4.9, CH), 4.58 (d,1, J=5.0, CH), 7.03-7.23 (m,5, Ar), 8.30 (s,1, NH). Analysis for C19H23NO: Calculated C, 81.80; H, 8.24 ; N, 4.98; Found: C, 80.91; H, 8.21; N, 5.00.

reactant | 5-Methyl-1-phenyl-1-hexen-3-one | 5.05 g | CC(CC(C=CC1=CC=CC=C1)=O)C | C13H16O
reactant | 1,3-cyclohexanedione | 3.31 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 4.91 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Isobutyl-4-phenyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.48 g | C(C(C)C)C=1NC=2CCCC(C2C(C1)C1=CC=CC=C1)=O | C19H23NO
